US08202858B2
5-Amino-1-ethyl-1H-pyrazole-4-carboxylic Acid Ethyl Ester
Triethylamine (19.6 ml, 144 mmol) was added cautiously to a solution of ethyl (ethoxymethylene)cyanoacetate (10.1 g, 60 mmol) and ethyl hydrazine oxalate (9.9 g, 66 mmol) in ethanol (200 ml). The mixture was heated at reflux for 24 h then concentrated in vacuo. The residue was redissolved in EtOAc, washed with 5% KHCO3 solution then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 25% pet. ether:75% EtOAc) to yield the title compound (8.8 g, 80%).

reactant | Triethylamine | 144 mmol, 19.6 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl (ethoxymethylene)cyanoacetate | 60 mmol, 10.1 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
reactant | ethyl hydrazine oxalate | 66 mmol, 9.9 g | C(C(=O)O)(=O)O.C(C)NN
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-Amino-1-ethyl-1H-pyrazole-4-carboxylic Acid Ethyl Ester | 8.8 g, 80% | C(C)OC(=O)C=1C=NN(C1N)CC | C8H13N3O2
